US07816391B2
Sodium bis(trimethylsilyl)amide (7.13 mL, 7.13 mmol) was added dropwise to cyclopentanethiol (0.761 mL, 7.13 mmol) in DMF (25 mL) under nitrogen. The resulting solution was stiffed at 20° C. for 30 minutes. A solution of tert-butyl 5-chloro-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylate (Intermediate#9) (2 g, 5.94 mmol) in DMF (10 mL) was then added dropwise and the resulting mixture was stirred at 20° C. for 2 hours. The reaction mixture was diluted with EtOAc (200 mL), and washed sequentially with water (4×50 mL) and saturated brine (50 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 25% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford tert-butyl 5-(cyclopentylthio)-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylate (1.380 g, 57.7%) as a colourless oil which crystallised on standing.

reactant | Sodium bis(trimethylsilyl)amide | 7.13 mmol, 7.13 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclopentanethiol | 7.13 mmol, 0.761 mL | C1(CCCC1)S | C5H10S
reactant | tert-butyl 5-chloro-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylate | 5.94 mmol, 2 g | ClC1=C(C=NN1C1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C | C16H17ClN2O4
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 5-(cyclopentylthio)-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylate | 1.380 g, 57.7% | C1(CCCC1)SC1=C(C=NN1C1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C | C21H26N2O4S
